US07071182B2
3-chloro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine
A mixture of 3-chloro-6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole (2.3 g, 7.8 mmol), iron powder (3.5 g, 62 mmol), and ammonium chloride (0.21 g, 3.9 mmol) in 80% Ethanol was heated to reflux for 3 hours, cooled to room temperature, and concentrated under reduced pressure. The residue was stirred in triethylamine/ethyl acetate (1/4, 20 mL) for 15 minutes, filtered through a plug of silica gel, which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure to provide the title compound (1.7 g, 80%). 1H NMR (300 MHz, DMSO-d6) ppm 1.64 (m, 4H), 2.45 (m, 4H), 2.78 (t, J=6.44, 2H), 4.21 (t, J=6.44, 2H), 5.56 (s, 2H), 6.48 (m, 1H), 6.58 (m, 1H), 7.25 (m, 1H); MS (DCI/NH3) m/z 265 [M+H]+.

reactant | 3-chloro-6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | 7.8 mmol, 2.3 g | ClC1=NN(C2=CC(=CC=C12)[N+](=O)[O-])CCN1CCCC1 | C13H15ClN4O2
reactant | ammonium chloride | 3.9 mmol, 0.21 g | [Cl-].[NH4+]
solvent | Ethanol | C(C)O | C2H6O
catalyst | iron | 62 mmol, 3.5 g | [Fe] | Fe
product | 3-chloro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | 1.7 g, 80% | ClC1=NN(C2=CC(=CC=C12)N)CCN1CCCC1 | C13H17ClN4
